US05919779
To a solution of 3-(2-fluoropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene (0.021 g) in tetrahydrofuran (1.5 mL was added potassium bistrimethylsilylamide (0.5M in toluene) until no yellow color appeared on addition of further reagent. The mixture was stirred for 5 minutes, ethanol was added, the mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. The residue was fractionated by chromatography to give 8-ethyl-thienyl[3',4':6,5]dipyrido[2,3-b:3',2'-f]azepine mp 140-142° C.

reactant | 3-(2-fluoropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene | 0.021 g | FC1=NC=CC=C1C1=CSC=C1C=1C(=NC=CC1)NCC | C16H14FN3S
reactant | potassium bistrimethylsilylamide | 0.5M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-ethyl-thienyl[3',4':6,5]dipyrido[2,3-b:3',2'-f]azepine | CCN1C2=C(C=CC=N2)C3=CSC=C3C4=C1N=CC=C4 | C16H13N3S
